US08071595B2
To a stirred solution of 5-bromobenzo[c][1,2,5]oxadiazole 1-oxide (6.0 g, 28.436 mmol) in ethanol (60 mL) was added triethyl phosphite (6.2 mL, 34.123 mmol) at RT under an inert atmosphere. The reaction mixture was then heated at 60° C. for 1 h., cooled to RT, diluted with hexane (100 mL) and stirred for 10 min. The precipitated solid was filtered off and the filtrate was concentrated in vacuo to obtain the crude product. The crude material was purified via silica gel column chromatography to afford 5-bromobenzo[c][1,2,5]oxadiazole (4.0 g, 71%) as a light yellow solid.

reactant | 5-bromobenzo[c][1,2,5]oxadiazole 1-oxide | 28.436 mmol, 6.0 g | BrC1=CC=2C(=[N+](ON2)[O-])C=C1 | C6H3BrN2O2
reactant | triethyl phosphite | 34.123 mmol, 6.2 mL | P(OCC)(OCC)OCC | C6H15O3P
solvent | ethanol | 60 mL | C(C)O | C2H6O
solvent | hexane | 100 mL | CCCCCC | C6H14
product | 5-bromobenzo[c][1,2,5]oxadiazole | 4.0 g, 71% | BrC1=CC=2C(=NON2)C=C1 | C6H3BrN2O
